US08877774B2
Step 2. 3-(Amino(phenyl)methyl)phenol hydrochloride
Methanol (125 mL), was cooled to 0° C., and acetyl chloride (17.8 mL) added dropwise to give a 2M solution of methanolic hydrogen chloride. N-((3-hydroxyphenyl)-(phenyl)methyl)formamide was stirred at 40° C. for 1.5 hours with the 2M methanolic hydrogen chloride. The solvent was removed under reduced pressure and the residue re-dissolved in methanol and the solvent removed under reduced pressure. This process was repeated three times to give the title compound (29.09 g, 97.9%).

reactant | N-((3-hydroxyphenyl)-(phenyl)methyl)formamide | OC=1C=C(C=CC1)C(NC=O)C1=CC=CC=C1 | C14H13NO2
reactant | hydrogen chloride | 2M | Cl | ClH
product | 3-(Amino(phenyl)methyl)phenol hydrochloride | 29.09 g, 97.9% | Cl.NC(C=1C=C(C=CC1)O)C1=CC=CC=C1 | InChI=1S/C13H13NO.ClH/c14-13(10-5-2-1-3-6-10)11-7-4-8-12(15)9-11;/h1-9,13,15H,14H2;1H
